US06703425B2
Preparation of 2-[4-(2-Amino-1-methyl-ethyl)-phenyl]-propylamine Dihydrochloride
2-[4-(Cyano-methyl-methyl)-phenyl]-propionitrile (3.25 g, 17.7 mmol) was dissolved in anhydrous THF (30 mL). The solution was heated to reflux and a 2M THF solution of borane-methyl sulfide complex (19.5 mL, 38.9 mmol) was added dropwise. Heating at reflux was continued for 30 minutes and then allowed to cool to room temperature. An HCl saturated solution of methanol (30 mL) was slowly added until pH=2. The mixture was concentrated in vacuo, redissolved in methanol and concentrated again to provide the intermediate title compound (4.5 g, 96%). TLC and HPLC indicated the starting material had been consumed and produced a mixture of more polar products. This material was used crude in the next step without further characterization.

reactant | 2-[4-(Cyano-methyl-methyl)-phenyl]-propionitrile | 17.7 mmol, 3.25 g | C(#N)C(C1=CC=C(C=C1)C(C#N)C)C | C12H12N2
reactant | HCl | Cl | ClH
reactant | methanol | 30 mL | CO | CH4O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 2M | C1CCOC1 | C4H8O
product | 2-[4-(2-Amino-1-methyl-ethyl)-phenyl]-propylamine Dihydrochloride | 4.5 g, 96% | Cl.Cl.NCC(C)C1=CC=C(C=C1)C(CN)C | InChI=1S/C12H20N2.2ClH/c1-9(7-13)11-3-5-12(6-4-11)10(2)8-14;;/h3-6,9-10H,7-8,13-14H2,1-2H3;2*1H
